US09029371B2
To a degassed solution of 2-(4-hydroxy-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (10.23 g; 36.6 mmol), and 1-iodo-2,3-dimethyl-benzene (10.62 g; 45.8 mmol) in DMSO (50 mL), was added picolinic acid (0.90 g; 7.3 mmol), CuI (0.70 g; 3.7 mmol) and K3PO4 (15.55 g; 73.3 mmol). The resulting mixture was heated overnight, at 90° C. After cooling to RT, brine was added and the mixture extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, CH2Cl2) to afford 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester.

reactant | 2-(4-hydroxy-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 36.6 mmol, 10.23 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC=C(C=C1)O | C15H21NO4
reactant | 1-iodo-2,3-dimethyl-benzene | 45.8 mmol, 10.62 g | IC1=C(C(=CC=C1)C)C | C8H9I
reactant | picolinic acid | 7.3 mmol, 0.90 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | K3PO4 | 73.3 mmol, 15.55 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
catalyst | CuI | 3.7 mmol, 0.70 g | [Cu]I
product | 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC=C(C=C1)OC1=C(C(=CC=C1)C)C | C23H29NO4
